US09085555B2
A. (2S,3R)-3-Azido-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester
To a solution of (2S,3R)-3-azido-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester [361367-97-7] (210 mg, 0.777 mmol; Sunshine Ltd) in THF (6 mL) was added a solution of LiOH (55.8 mg, 2.33 mmol) in water (3 mL), followed by stirring at RT for 20 h. The reaction mixture was concentrated under reduced pressure and the residual aqueous phase was washed with EtOAc (3×). The water phase was adjusted to pH 2 to 3 by adding 1N aqueous HCl, followed by extraction with EtOAc (3×). The combined organics were dried (Phase separator) and concentrated in vacuo to give the crude title compound as a colorless oil. The crude product was used in the next reaction step without further purification. MS (LC/MS): 279 [M+Na]+, 200 [MH−tBu]+, 157 [MH−Boc]+; tR (HPLC conditions b): 2.77 min.

reactant | (2S,3R)-3-azido-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 0.777 mmol, 210 mg | COC(=O)[C@H]1N(CC[C@H]1N=[N+]=[N-])C(=O)OC(C)(C)C | C11H18N4O4
reactant | LiOH | 2.33 mmol, 55.8 mg | [Li+].[OH-]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | water | 3 mL | O | H2O
product | (2S,3R)-3-Azido-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]([C@@H](CC1)N=[N+]=[N-])C(=O)O | C10H16N4O4
